US04782050
C. 1-cyclopropyl-2-methylbenzimidazole
A solution of 1.71 g (0.0115 mole) of N-cyclopropyl-1,2-phenylenediamine and 2.12 ml (0.0115 mole) of triethylorthoacetate in 50 ml of ethyl acetate was heated to reflux for 2 hours. The solvent was removed and the residue partitioned between chloroform and water. The organic phase was separated, dried over sodium sulfate and concentrated to give 1.87 g of a brown oil.

reactant | N-cyclopropyl-1,2-phenylenediamine | 0.0115 mole, 1.71 g | C1(CC1)NC1=C(C=CC=C1)N | C9H12N2
reactant | triethylorthoacetate | 0.0115 mole, 2.12 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-cyclopropyl-2-methylbenzimidazole | 1.87 g | C1(CC1)N1C(=NC2=C1C=CC=C2)C | C11H12N2
